*
.SUBCKT BF370R 1 2 3 
* housing parasitics
LB 2 22 2.3E-9 
LE 3 33 1.2E-09 
LC 1 11 1.7E-09 
CBCG 22 11 2.37E-13 
CBEG 22 33 1.81E-13 
CCEG 11 33 3.53E-13 
Q1 11 22 33 QBF370R 
* 
.MODEL QBF370R NPN( 
+ IS = 1.751E-15 
+ NF = 0.998 
+ ISE = 3.503E-16 
+ NE = 1.148 
+ BF = 121.3 
+ IKF = 0.17 
+ VAF = 57 
+ NR = 0.988 
+ ISC = 7.44E-11 
+ NC = 1.55 
+ BR = 0.3812 
+ IKR = 0.05 
+ VAR = 17 
+ RB = 35 
+ IRB = 0.0002423 
+ RBM = 0.05 
+ RE = 0.729 
+ RC = 1.01 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 3.807E-12 
+ VJE = 0.55 
+ MJE = 0.3135 
+ TF = 2.073E-10 
+ XTF = 1 
+ VTF = 11 
+ ITF = 0.17 
+ PTF = 0 
+ CJC = 1.889E-12 
+ VJC = 0.8844 
+ MJC = 0.3014 
+ XCJC = 1 
+ TR = 5E-08 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.8517) 
.ENDS
*
