*
*
.SUBCKT BSS51 1 2 3 
*
* For use with Microsim PSPICE please
* modify the AREA statement in this 
* model:  e.g.
* SPICE: 
* Q2 1 22 3 QBSS51 AREA = 3.33 
* PSPICE:
* Q2 1 22 3 QBSS51 3.33 
*
Q1 1 2 22 QBSS51 AREA = 1 
Q2 1 22 3 QBSS51 AREA = 3.33 
R1 22 3 134 
D1 3 1 DIODE 
*
*
.MODEL QBSS51 NPN (
+    IS = 1.187E-14 
+    NF = 1.002 
+    ISE = 2.552E-15 
+    NE = 1.65 
+    BF = 118.2 
+    IKF = 0.232 
+    VAF = 184.8 
+    NR = 1.002 
+    ISC = 1.501E-13 
+    NC = 1.25 
+    BR = 21.85 
+    IKR = 0.1 
+    VAR = 20 
+    RB = 190 
+    IRB = 0.00013 
+    RBM = 2 
+    RE = 0.129 
+    RC = 3.65 
+    XTB = 0 
+    EG = 1.11 
+    XTI = 3 
+    CJE = 1.63E-11 
+    VJE = 0.79 
+    MJE = 0.2652 
+    TF = 9.792E-10 
+    XTF = 42.1 
+    VTF = 6.4 
+    ITF = 2.69 
+    PTF = 0 
+    CJC = 7.9E-12 
+    VJC = 0.49 
+    MJC = 0.6503 
+    XCJC = 0.5 
+    TR = 1.4E-07 
+    CJS = 0 
+    VJS = 0.75 
+    MJS = 0.333 
+    FC = 0.99)
*
*
.MODEL DIODE D( 
+    IS = 1E-18 
+    N = 1.65 
+    BV = 83 
+    IBV = 1.5E-08 
+    RS = 0.1 
+    CJO = 4.9E-12 
+    VJ = 0.4709 
+    M = 0.15 
+    FC = 0.89 
+    TT = 1E-12 
+    EG = 1.1 
+    XTI = 3) 
.ENDS
*
